US05011931
A solution of 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphinylethanone (161.0 g), prepared in a similar manner to that described in Example 1, in acetic acid (770 ml) was added to a stirred mixture of zinc dust (228.2 g), acetic acid (210 ml) and ethanol (392 ml) at 80° over 1 hour. The mixture was stirred at 80° for a further 2 hours and then allowed to cool to ambient temperature. The combined filtrates obtained after filtration and washing the residue with dichloromethane (400 ml) were concentrated by distillation until the temperature of the remaining mixture reached 132° and then cooled to ambient temperature. Water (1 1) and dichloromethane (330 ml) were added sequentially, the mixture stirred for 10 minutes and the layers then separated. The aqueous phase was extracted with further dichloromethane (2×200ml), the organic extracts combined, then washed with aqueous sodium hydroxide solution (5M; 200 ml) and evaporated in vacuo. Distillation in vacuo (b.p. 74°, 0.4 mm Hg) of the residue gave 4'-fluoro-2'-(methylamino)acetophenone, m.p. 52°-53°.

reactant | 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphinylethanone | 161.0 g | FC1=CC(=C(C=C1)C(CS(=O)C)=O)NC | C10H12FNO2S
reactant | ethanol | 392 ml | C(C)O | C2H6O
solvent | acetic acid | 770 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 228.2 g | [Zn] | Zn
solvent | acetic acid | 210 ml | C(C)(=O)O | C2H4O2
product | 4'-fluoro-2'-(methylamino)acetophenone | FC1=CC(=C(C=C1)C(C)=O)NC | C9H10FNO
